US07098212B2
N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetyl]-sulfamide
A solution of (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetic acid (0.10 g, 0.21 mmol) in thionyl chloride (2 mL) was stirred at ambient temperature for two hours. The reaction was concentrated to dryness and the crude acid chloride was dissolved in 1,4-dioxane (4 mL) followed by addition of sulfamide (0.022 g, 0.23 mmol). The reaction was stirred at ambient temperature for 3 days. The reaction was concentrated and chromatographed on silica gel to give the title compound (0.014 g, LRMS: 525.1).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetic acid | 0.21 mmol, 0.10 g | ClC=1C=CC(=C(C1)CC(=O)O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C23H26ClFN2O4
reactant | sulfamide | 0.23 mmol, 0.022 g | S(=O)(=O)(N)N | H4N2O2S
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-acetyl]-sulfamide | 0.014 g | ClC=1C=CC(=C(C1)CC(=O)NS(=O)(=O)N)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C23H28ClFN4O5S
